US07915270B2
5-(2-(7-Phenylheptanoyl)oxazol-5-yl)thiophene-2-carboxylic acid
The title compound was prepared from methyl 5-(2-(7-phenylheptanoyl)oxazol-5-yl)thiophene-2-carboxylate (7 mg, 0.018 mmol) following General Procedure E. Preparative thin layer chromatography (10% MeOH/CH2Cl2) yielded the title compound as a white solid (3 mg, 41%): 1H NMR (THF-d8, 500 MHz) δ 7.73 (d, 1H, J=3.5 Hz), 7.72 (s, 1H), 7.55 (d, 1H, J=4.0 Hz), 7.22-7.08 (m, 5H), 3.03 (t, 2H, J=7.0 Hz), 2.60 (t, 2H, J=7.5 Hz), 1.73-1.71 (m, 2H), 1.65-1.61 (m, 2H), 1.42-1.40 (m, 4H); 13C NMR NMR (THF-d8, 125 MHz) δ 185.1, 164.0, 155.8, 147.0, 141.0, 134.8, 132.7, 132.1, 126.7, 126.5, 124.9, 123.9, 123.3, 37.0, 34.3, 30.0, 27.6, 27.5, 22.2; MALDI-FTMS m/z 384.1272 (M+H+, C21H22NO4S, requires 384.1264).

reactant | methyl 5-(2-(7-phenylheptanoyl)oxazol-5-yl)thiophene-2-carboxylate | 0.018 mmol, 7 mg | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(S1)C(=O)OC | C22H23NO4S
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 5-(2-(7-Phenylheptanoyl)oxazol-5-yl)thiophene-2-carboxylic acid | 3 mg, 41% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(S1)C(=O)O | C21H21NO4S
